US09359381B2
Step 4: 5-(3-fluorophenyl)-1,3-dimethyl-6-((5-oxotetrahydrofuran-3-yl)methyl)-1H-pyrrolo[3,4-d]pyrimidine-2,4(3H,6H)-dione
5-(3-Fluorophenyl)-1,3-dimethyl-1H-pyrrolo[3,4-d]pyrimidine-2,4(3H,6H)-dione (2.50 g, 9.2 mmol) was added portionwise to a mixture of potassium tert-butoxide (1.18 g, 10.5 mmol) and 18-crown-6 (242 mg, 0.92 mmol) in THF (15 mL), and stirred at room temperature for 15 minutes. A solution of (5-oxotetrahydrofuran-3-yl)methyl trifluoromethanesulfonate (2.61 g, 10.5 mmol) in THF (7.5 mL) was then added, maintaining the temperature at ˜20° C. using a water bath. The solution was stirred at room temperature for 1 hour. The reaction was quenched with saturated NH4Cl(aq) (10 mL), diluted with dichloromethane (100 mL) and washed with saturated NH4Cl(aq) (2×50 mL). The organic phase was dried over magnesium sulfate and the solvent evaporated under vacuum. Purification by chromatography on silica, eluting with 40-100% EtOAc/hexane, afforded the title compound.

reactant | 5-(3-Fluorophenyl)-1,3-dimethyl-1H-pyrrolo[3,4-d]pyrimidine-2,4(3H,6H)-dione | 9.2 mmol, 2.50 g | FC=1C=C(C=CC1)C=1NC=C2N(C(N(C(C21)=O)C)=O)C | C14H12FN3O2
reactant | potassium tert-butoxide | 10.5 mmol, 1.18 g | CC(C)([O-])C.[K+]
reactant | 18-crown-6 | 0.92 mmol, 242 mg | C1COCCOCCOCCOCCOCCO1 | C12H24O6
reactant | (5-oxotetrahydrofuran-3-yl)methyl trifluoromethanesulfonate | 10.5 mmol, 2.61 g | FC(S(=O)(=O)OCC1COC(C1)=O)(F)F | C6H7F3O5S
solvent | THF | 15 mL | C1CCOC1 | C4H8O
solvent | THF | 7.5 mL | C1CCOC1 | C4H8O
product | 5-(3-fluorophenyl)-1,3-dimethyl-6-((5-oxotetrahydrofuran-3-yl)methyl)-1H-pyrrolo[3,4-d]pyrimidine-2,4(3H,6H)-dione | FC=1C=C(C=CC1)C=1N(C=C2N(C(N(C(C21)=O)C)=O)C)CC2COC(C2)=O | C19H18FN3O4
